US07732456B2
(1) Preparation of 1-[4-(2-bromoethoxy)phenyl]-4-[(5-chloro-2-pyridinyl)-methoxy]-1H-pyridin-2-one
A mixture of 4-[(5-chloro-2-pyridinyl)methoxy]-1-(4-hydroxyphenyl)-1H-pyridin-2-one (1.0 g, 3.1 mmols), cesium carbonate (5.0 g, 15 mmols), dibromoethane (5 mL) and DMF (10 mL) was stirred at 80° C. for 14.5 hours. Chloroform was added to the reaction liquid, followed by filtration. Concentrating the solvent under reduced pressure, the residue was purified on silica gel column chromatography (KP-Sil FLASH 25+ M, chloroform:methanol=1:0→100:2) to provide the title compound (1.2 g, 89%).

reactant | 4-[(5-chloro-2-pyridinyl)methoxy]-1-(4-hydroxyphenyl)-1H-pyridin-2-one | 3.1 mmols, 1.0 g | ClC=1C=CC(=NC1)COC1=CC(N(C=C1)C1=CC=C(C=C1)O)=O | C17H13ClN2O3
reactant | cesium carbonate | 15 mmols, 5.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dibromoethane | 5 mL | BrC(C)Br | C2H4Br2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-(2-bromoethoxy)phenyl]-4-[(5-chloro-2-pyridinyl)-methoxy]-1H-pyridin-2-one | 1.2 g, 89% | BrCCOC1=CC=C(C=C1)N1C(C=C(C=C1)OCC1=NC=C(C=C1)Cl)=O | C19H16BrClN2O3
